US07732446B1
As described in example 1, a solution of [6,7-dimethoxy-4-(pyrrolidine-1-carbonyl)-isoquinolin-1-ylmethyl]-carbamic acid tert-butyl ester (59 mg) was treated with HCl in EtOAc to give 42 mg (84%) of (1-aminomethyl-6,7-dimethoxy-isoquinolin-4-yl)-pyrrolidin-1-yl-methanone hydrochloride: 1H NMR (DMSO-d6) δ 1.74-1.81 (m, 2H), 1.86-1.92 (m, 2H), 3.10 (t, 2H, J=6.41 Hz), 3.59 (t, 2H, J=6.50 Hz), 3.89 (s, 3H), 3.99 (s, 3H), 4.71 (m, 2H), 7.09 (s, 1H), 7.49 (s, 1H), 8.36 (s, 1H), 8.68 (br s, 3H); MS: APCI (M+H) calc'd for C17H21N3O3 316.2; found 316.1.

reactant | [6,7-dimethoxy-4-(pyrrolidine-1-carbonyl)-isoquinolin-1-ylmethyl]-carbamic acid tert-butyl ester | 59 mg | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)C(=O)N1CCCC1)=O | C22H29N3O5
reactant | HCl | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (1-aminomethyl-6,7-dimethoxy-isoquinolin-4-yl)-pyrrolidin-1-yl-methanone hydrochloride | 42 mg, 84% | Cl.NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)C(=O)N1CCCC1 | InChI=1S/C17H21N3O3.ClH/c1-22-15-7-11-12(8-16(15)23-2)14(9-18)19-10-13(11)17(21)20-5-3-4-6-20;/h7-8,10H,3-6,9,18H2,1-2H3;1H
